*
*|DSPF 1.5
*
*|DATE "Sun Jan 14 12:47:19 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "AOI22X2"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.1/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  AOI22X2 A0 A1 B0 B1 Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A0 5.69724e-16
*|P (A0 X 0 0.4720 2.1650)
*|I (MX32/M0#g MX32/M0 g X 0 0.4750 0.9700)
*|I (MX32/M1#g MX32/M1 g X 0 0.9050 0.9700)
*|I (MX30/M0#g MX30/M0 g X 0 0.4750 2.9850)
*|I (MX30/M1#g MX30/M1 g X 0 0.9050 2.9850)
*|S (A0#13 0.9050 2.0950)
*|S (A0#14 0.6775 2.0950)
*|S (A0#15 0.4525 2.0950)
*|S (A0#17 0.4600 2.0950)
C1 MX30/M1#g VSS 5.91817e-17
C2 MX30/M0#g VSS 6.22839e-17
C3 MX32/M1#g VSS 5.08903e-17
C4 MX32/M0#g VSS 5.28698e-17
C5 A0#14 VSS 1.42148e-16
C6 A0 VSS 2.02351e-16
Rg1 MX30/M1#g A0#13 279.812103 $W=0.15
Rg2 A0#13 A0#14 22.347273 $W=0.33
Rg3 A0#14 A0#15 18.695757 $W=0.33
Rg4 A0#15 MX32/M0#g 352.191528 $W=0.15
Rg5 A0#13 MX32/M1#g 354.538055 $W=0.15
Rg6 A0#15 MX30/M0#g 279.368286 $W=0.15
Rf7 A0#14 A0#17 23.876471 $W=0.17
Re8 A0 A0#17 152.033661 $W=0.26
*
*|NET A1 6.14698e-16
*|P (A1 X 0 1.3920 2.1650)
*|I (MX27/M0#g MX27/M0 g X 0 1.3350 0.9700)
*|I (MX27/M1#g MX27/M1 g X 0 1.7650 0.9700)
*|I (MX31/M0#g MX31/M0 g X 0 1.3350 2.9850)
*|I (MX31/M1#g MX31/M1 g X 0 1.7650 2.9850)
*|S (A1#13 1.7650 1.6250)
*|S (A1#14 1.5500 1.6250)
*|S (A1#15 1.3250 1.6250)
*|S (A1#17 1.3800 1.6250)
C7 MX31/M1#g VSS 6.49575e-17
C8 MX31/M0#g VSS 6.05004e-17
C9 MX27/M1#g VSS 5.47743e-17
C10 MX27/M0#g VSS 4.90047e-17
C11 A1#17 VSS 1.03811e-16
C12 A1#14 VSS 1.62251e-16
C13 A1 VSS 1.194e-16
Rg9 MX31/M1#g A1#13 430.838745 $W=0.15
Rg10 A1#13 A1#14 20.521515 $W=0.33
Rg11 A1#14 A1#15 20.521515 $W=0.33
Rg12 A1#15 MX27/M0#g 203.511398 $W=0.15
Rg13 A1#13 MX27/M1#g 203.511398 $W=0.15
Rg14 A1#15 MX31/M0#g 430.838745 $W=0.15
Rf15 A1#14 A1#17 20.299999 $W=0.17
Re16 A1 A1#17 152.259613 $W=0.26
*
*|NET B0 6.81607e-16
*|P (B0 X 0 3.6920 2.1650)
*|I (MX28/M0#g MX28/M0 g X 0 3.5750 0.9700)
*|I (MX28/M1#g MX28/M1 g X 0 4.0050 0.9700)
*|I (MX34/M0#g MX34/M0 g X 0 3.5750 2.9850)
*|I (MX34/M1#g MX34/M1 g X 0 4.0050 2.9850)
*|S (B0#13 4.0050 1.6250)
*|S (B0#14 3.7900 1.6250)
*|S (B0#15 3.5650 1.6250)
*|S (B0#17 3.6800 1.6240)
C14 MX34/M1#g VSS 6.67433e-17
C15 MX34/M0#g VSS 6.39194e-17
C16 MX28/M1#g VSS 5.2547e-17
C17 MX28/M0#g VSS 4.38284e-17
C18 B0#17 VSS 3.008e-16
C19 B0 VSS 1.53768e-16
Rg17 MX34/M1#g B0#13 430.838745 $W=0.15
Rg18 B0#13 B0#14 20.521515 $W=0.33
Rg19 B0#14 B0#15 20.521515 $W=0.33
Rg20 B0#15 MX28/M0#g 203.511398 $W=0.15
Rg21 B0#13 MX28/M1#g 203.511398 $W=0.15
Rg22 B0#15 MX34/M0#g 430.838745 $W=0.15
Rf23 B0#17 B0#14 15.733918 $W=0.171
Re24 B0 B0#17 152.260101 $W=0.26
*
*|NET B1 6.2127e-16
*|P (B1 X 0 2.7720 2.1650)
*|I (MX33/M0#g MX33/M0 g X 0 2.7150 0.9700)
*|I (MX33/M1#g MX33/M1 g X 0 3.1450 0.9700)
*|I (MX29/M0#g MX29/M0 g X 0 2.7150 2.9850)
*|I (MX29/M1#g MX29/M1 g X 0 3.1450 2.9850)
*|S (B1#13 3.1450 2.0950)
*|S (B1#14 2.9300 2.0950)
*|S (B1#15 2.7050 2.0950)
*|S (B1#17 2.7600 2.0950)
C20 MX29/M1#g VSS 6.01706e-17
C21 MX29/M0#g VSS 6.98122e-17
C22 MX33/M1#g VSS 5.93023e-17
C23 MX33/M0#g VSS 5.64359e-17
C24 B1#14 VSS 1.48666e-16
C25 B1 VSS 2.26884e-16
Rg25 MX29/M1#g B1#13 279.812103 $W=0.15
Rg26 B1#13 B1#14 20.521515 $W=0.33
Rg27 B1#14 B1#15 20.521515 $W=0.33
Rg28 B1#15 MX33/M0#g 354.538055 $W=0.15
Rg29 B1#13 MX33/M1#g 354.538055 $W=0.15
Rg30 B1#15 MX29/M0#g 279.812103 $W=0.15
Rf31 B1#14 B1#17 20.299999 $W=0.17
Re32 B1 B1#17 152.033661 $W=0.26
*
*|NET Y 1.83762e-15
*|P (Y X 0 4.1630 2.1650)
*|I (MX33/M0#d MX33/M0 d X 0 2.7905 0.9700)
*|I (MX33/M1#s MX33/M1 s X 0 3.0695 0.9700)
*|I (MX27/M0#d MX27/M0 d X 0 1.4105 0.9700)
*|I (MX27/M1#s MX27/M1 s X 0 1.6895 0.9700)
*|I (MX34/M0#d MX34/M0 d X 0 3.6505 2.9850)
*|I (MX34/M1#s MX34/M1 s X 0 3.9295 2.9850)
*|I (MX29/M0#d MX29/M0 d X 0 2.7905 2.9850)
*|I (MX29/M1#s MX29/M1 s X 0 3.0695 2.9850)
*|S (Y#1 1.5500 1.0450)
*|S (Y#3 2.9300 3.0950)
*|S (Y#5 2.9300 1.0450)
*|S (Y#7 3.7900 3.0950)
C26 MX29/M0#d VSS 2.03719e-16
C27 MX34/M0#d VSS 1.78402e-16
C28 MX27/M0#d VSS 1.46217e-16
C29 MX33/M0#d VSS 1.25424e-16
C30 Y#1 VSS 1.94344e-16
C31 Y#5 VSS 4.05539e-16
C32 Y#3 VSS 1.33671e-16
C33 Y#7 VSS 1.97145e-16
C34 Y VSS 2.53158e-16
Rf33 Y#1 MX27/M0#d 13.147058 $W=0.17
Rf34 Y#3 MX29/M0#d 13.282353 $W=0.17
Rf35 Y#5 MX33/M0#d 165.147064 $W=0.17
Rf36 Y#7 MX34/M0#d 165.282349 $W=0.17
Re37 Y#5 Y#1 153.125931 $W=0.14
Re38 Y#5 Y 1.458271 $W=0.14
Re39 Y Y#7 0.599067 $W=0.14
Re40 Y#7 Y#3 152.661636 $W=0.14
Rmw41 MX33/M1#s MX33/M0#d 0.001000 $W=1000000
Rmw42 MX27/M1#s MX27/M0#d 0.001000 $W=1000000
Rmw43 MX34/M1#s MX34/M0#d 0.001000 $W=1000000
Rmw44 MX29/M1#s MX29/M0#d 0.001000 $W=1000000
*
*|NET 1 7.50576e-16
*|I (MX32/M0#s MX32/M0 s X 0 0.3995 0.9700)
*|I (MX32/M1#d MX32/M1 d X 0 0.9805 0.9700)
*|I (MX27/M0#s MX27/M0 s X 0 1.2595 0.9700)
*|I (MX27/M1#d MX27/M1 d X 0 1.8405 0.9700)
*|S (1#2 0.2600 0.6750)
*|S (1#4 1.1200 0.6750)
*|S (1 1.9800 0.6750)
C35 1#2 VSS 2.09834e-16
C36 1#4 VSS 2.82677e-16
C37 1 VSS 2.58066e-16
Rf45 MX32/M0#s 1#2 29.711765 $W=0.17
Rf46 MX32/M1#d 1#4 181.711761 $W=0.17
Rf47 MX27/M1#d 1 29.711765 $W=0.17
Re48 1 1#4 152.632355 $W=0.17
Re49 1#4 1#2 152.632355 $W=0.17
Rmw50 MX27/M0#s MX32/M1#d 0.001000 $W=1000000
*
*|NET 2 8.03e-16
*|I (MX33/M0#s MX33/M0 s X 0 2.6395 0.9700)
*|I (MX33/M1#d MX33/M1 d X 0 3.2205 0.9700)
*|I (MX28/M0#s MX28/M0 s X 0 3.4995 0.9700)
*|I (MX28/M1#d MX28/M1 d X 0 4.0805 0.9700)
*|S (2#2 2.5000 0.6750)
*|S (2#4 3.3600 0.6750)
*|S (2 4.2200 0.6750)
C38 MX33/M1#d VSS 1.64479e-18
C39 2#2 VSS 2.62432e-16
C40 2#4 VSS 3.07797e-16
C41 2 VSS 2.31126e-16
Rf51 MX33/M0#s 2#2 29.711765 $W=0.17
Rf52 MX33/M1#d 2#4 181.711761 $W=0.17
Rf53 MX28/M1#d 2 29.711765 $W=0.17
Re54 2 2#4 152.632355 $W=0.17
Re55 2#4 2#2 152.632355 $W=0.17
Rmw56 MX28/M0#s MX33/M1#d 0.001000 $W=1000000
*
*|NET 16 1.69172e-15
*|I (MX34/M0#s MX34/M0 s X 0 3.4995 2.9850)
*|I (MX34/M1#d MX34/M1 d X 0 4.0805 2.9850)
*|I (MX31/M0#s MX31/M0 s X 0 1.2595 2.9850)
*|I (MX31/M1#d MX31/M1 d X 0 1.8405 2.9850)
*|I (MX30/M0#s MX30/M0 s X 0 0.3995 2.9850)
*|I (MX30/M1#d MX30/M1 d X 0 0.9805 2.9850)
*|I (MX29/M0#s MX29/M0 s X 0 2.6395 2.9850)
*|I (MX29/M1#d MX29/M1 d X 0 3.2205 2.9850)
*|S (16 0.2600 3.4650)
*|S (16#3 1.1200 3.4650)
*|S (16#5 1.9800 3.4650)
*|S (16#7 2.5000 3.4650)
*|S (16#9 3.3600 3.4650)
*|S (16#11 4.2200 3.4650)
C42 MX29/M0#s VSS 1.33019e-16
C43 MX30/M0#s VSS 1.64876e-16
C44 MX31/M1#d VSS 1.10435e-16
C45 MX31/M0#s VSS 1.79593e-16
C46 MX34/M1#d VSS 1.63639e-16
C47 MX34/M0#s VSS 2.07008e-16
C48 16#3 VSS 1.16749e-16
C49 16#5 VSS 9.60554e-17
C50 16#7 VSS 1.15537e-16
C51 16#9 VSS 1.68743e-16
C52 16#11 VSS 1.29384e-16
C53 16 VSS 1.06678e-16
Rf57 16 MX30/M0#s 41.141178 $W=0.17
Rf58 16#3 MX31/M0#s 193.141174 $W=0.17
Rf59 16#5 MX31/M1#d 193.141174 $W=0.17
Rf60 16#7 MX29/M0#s 193.141174 $W=0.17
Rf61 16#9 MX34/M0#s 193.141174 $W=0.17
Rf62 16#11 MX34/M1#d 41.141178 $W=0.17
Re63 16#11 16#9 152.632355 $W=0.17
Re64 16#9 16#7 0.632353 $W=0.17
Re65 16#7 16#5 0.382353 $W=0.17
Re66 16#5 16#3 0.632353 $W=0.17
Re67 16#3 16 152.632355 $W=0.17
Rmw68 MX30/M1#d MX31/M0#s 0.001000 $W=1000000
Rmw69 MX29/M1#d MX34/M0#s 0.001000 $W=1000000
*
*Instance Section
*
MX33/M0	MX33/M0#d	MX33/M0#g	MX33/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX33/M1	MX33/M1#d	MX33/M1#g	MX33/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX32/M0	VSS	MX32/M0#g	MX32/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX32/M1	MX32/M1#d	MX32/M1#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX28/M0	VSS	MX28/M0#g	MX28/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX28/M1	MX28/M1#d	MX28/M1#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX27/M0	MX27/M0#d	MX27/M0#g	MX27/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX27/M1	MX27/M1#d	MX27/M1#g	MX27/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX34/M0	MX34/M0#d	MX34/M0#g	MX34/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX34/M1	MX34/M1#d	MX34/M1#g	MX34/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX31/M0	VDD	MX31/M0#g	MX31/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX31/M1	MX31/M1#d	MX31/M1#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX30/M0	VDD	MX30/M0#g	MX30/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX30/M1	MX30/M1#d	MX30/M1#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX29/M0	MX29/M0#d	MX29/M0#g	MX29/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX29/M1	MX29/M1#d	MX29/M1#g	MX29/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
.ENDS
